US09328106B2
A solution of tert-butyl N-[6-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-3-yl]carbamate (53 mg, 0.16 mmol) in MeOH (25 mL) was passed through the H-Cube® (50 bar, 50° C., flow rate: 1 mL/min, 30 mm 10% Pd/C cartridge). The solvent was removed under reduced pressure to afford tert-butyl N-[6-(4-amino-2-methyl-pyrazol-3-yl)oxepan-3-yl]carbamate as a brown oil. To a solution of this oil in DCM (5 mL) was added 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid (72 mg, 0.20 mmol), PyBOP (133 g, 0.25 mmol) and DIPEA (0.17 mL, 0.94 mmol) and the mixture was stirred at room temperature for 16 hr. The reaction was quenched with water and extracted with EA (3×). The organic layers were combined and the solvent was removed under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/heptane) gave tert-butyl N-[6-[4-[[5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carbonyl]amino]-2-methyl-pyrazol-3-yl]oxepan-3-yl]carbamate (100 mg, 99%).

reactant | tert-butyl N-[6-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-3-yl]carbamate | 0.16 mmol, 53 mg | CN1N=CC(=C1C1CCC(COC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C15H24N4O5
solvent | MeOH | 25 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl N-[6-(4-amino-2-methyl-pyrazol-3-yl)oxepan-3-yl]carbamate | NC1=C(N(N=C1)C)C1CCC(COC1)NC(OC(C)(C)C)=O | C15H26N4O3
